US06121433
A mixture of N-hydroxyphthalimide (100 mmol) and 1,3-dibromopropane (100 mmol) in dry DMF and triethyl amine (110 mmol) is stirred at 20-75° C. for 1-10 hours. After filtration, the mixture is evaporated to dryness under reduced pressure. The residue is purified by silica gel chromatography to give N-[(3-bromopropyl)oxy)]phthalimide.

reactant | N-hydroxyphthalimide | 100 mmol | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 1,3-dibromopropane | 100 mmol | BrCCCBr | C3H6Br2
reactant | triethyl amine | 110 mmol | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
